US09056859B2
A stirred solution of 2-fluoro-5-(prop-2-en-1-yl)benzonitrile (1.9 g, 11.8 mmol) in CCl4 (25 mL), acetonitrile (25 mL) and water (38 mL) was added sodium periodate (8.83 g, 41.3 mmol) and ruthenium oxide hydrate (200 mg) and the resulting mixture was stirred at ambient temperature overnight. The mixture was diluted with 100 mL DCM and 100 mL of water. The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified with silica gel column chromatography afford crude (3-cyano-4-fluorophenyl)acetic acid.

reactant | 2-fluoro-5-(prop-2-en-1-yl)benzonitrile | 11.8 mmol, 1.9 g | FC1=C(C#N)C=C(C=C1)CC=C | C10H8FN
reactant | sodium periodate | 41.3 mmol, 8.83 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 38 mL | O | H2O
reactant | water | 100 mL | O | H2O
solvent | CCl4 | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | ruthenium oxide hydrate | 200 mg | O.[Ru]=O
product | (3-cyano-4-fluorophenyl)acetic acid | C(#N)C=1C=C(C=CC1F)CC(=O)O | C9H6FNO2
